US07947692B2
A magnetically stirred mixture of (1-Chlorocarbonyl-pyrrolidin-3-yl)carbamic acid tert-butyl ester (820 mg, 3.30 mmol) in acetone (15 mL) under a nitrogen atmosphere at 25 C was treated with ammonium thiocyanate (240 mg, 3.15 mmol). The reaction mixture was stirred at reflux for 30 min. At this time, the reaction was treated with 3-amino-2-chloro-4 methoxypyridine (440 mg, 2.78 mmol). The reaction mixture was refluxed overnight. At this time, the reaction was concentrated in vacuo, poured into water and extracted with ethyl acetate. The organics were washed with a 2N aqueous hydrochloric acid solution and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 98:2 methylene chloride/methanol) afforded [1-(7-Methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester (160 mg, 15%) as a light yellow solid. LRMS for C17H23N5O4S (M+H)+ at m/z=393. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | (1-Chlorocarbonyl-pyrrolidin-3-yl)carbamic acid tert-butyl ester | 3.30 mmol, 820 mg | C(C)(C)(C)OC(NC1CN(CC1)C(=O)Cl)=O | C10H17ClN2O3
reactant | ammonium thiocyanate | 3.15 mmol, 240 mg | [S-]C#N.[NH4+]
reactant | 3-amino-2-chloro-4 methoxypyridine | 2.78 mmol, 440 mg | NC=1C(=NC=CC1OC)Cl | C6H7ClN2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | [1-(7-Methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 160 mg, 15% | C(C)(C)(C)OC(NC1CN(CC1)C(NC=1SC2=NC=CC(=C2N1)OC)=O)=O | C17H23N5O4S
